* C:\Users\admin\Documents\team-2\repo\remote-submersible\simulations\electromagnet.asc
M1 N005 N008 0 0 SiR416DP
M2 N006 N005 0 0 SiR470DP
R1 N001 N005 100k
V1 N008 0 PULSE(0 3.3 0 0 0 0.5 1)
V2 N001 0 3.3
D1 N003 N001 D
L1 N001 N003 10µ
R2 N003 N006 1k
V3 N002 0 6
V4 N009 0 PULSE(0 3.3 0 0 0 0.5 1)
M3 N007 N009 0 0 NDC7002N
D2 N004 N002 D
L2 NC_01 NC_02 10µ
R3 NC_03 NC_04 10
.model D D
.lib C:\Users\admin\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\admin\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 10 0 0.01
.backanno
.end
